US04940710
A 4.3 g portion of 3-(1,1-difluoroethyl)pyrazine in 25 ml of methanol was reduced with 50 psi hydrogen and 750 mg of platinum oxide at 20° C. for 5 hours. The resulting oil was purified by chromatography, giving about 700 mg of 3-(1,1-difluoroethyl)piperazine.

reactant | 3-(1,1-difluoroethyl)pyrazine | FC(C)(F)C=1C=NC=CN1 | C6H6F2N2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 25 ml | CO | CH4O
catalyst | platinum oxide | 750 mg | [Pt]=O
product | 3-(1,1-difluoroethyl)piperazine | about 700 mg | FC(C)(F)C1CNCCN1 | C6H12F2N2
